* source ZAS
V_V1         N00533 0 9Vdc
R_R1         0 N00583  40  
Q_Q1         N00533 N01000 N00567 Q2N5339
L_L1         N00567 N00583  480u  
C_C1         0 N00583  7u  
D_D1         0 N00567 D1N5818 
V_V2         N00567 N01000  
+PULSE -2 1.5 0 50n 50n 30n 40n
