* source ZAS
V_V1         N00533 0 9Vdc
R_R1         0 N00583  23  
Q_Q1         N00533 N01000 N00567 Q2N5339
L_L1         N00567 N00583  300u  
C_C1         0 N00583  47u  
D_D1         0 N00567 D1N5818 
V_V2         N01000 N02703  
+PULSE -2 1.5 0 50n 50n 16.67n 25n
R_R2         N02703 N00567  100  
